US07776897B2
Trifluoroacetic acid (2 ml) was added to a chloroform (4 ml) solution of tert-Butyl-{1-[5-(2-chlorophenyl)-4-methyl-4H-1,2,4-triazol-3-yl]-1-methylethyl}carbamate (500 mg), followed by stirring at room temperature for 2 hours. The reaction solution and chloroform were added to an aqueous saturated sodium hydrogen carbonate solution and then the organic layer was separated. Furthermore, the organic layer washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and filtered and then the solvent was removed by evaporation under reduced pressure. Potassium carbonate (394 mg) and 1,2-bis(bromomethyl)benzene (376 mg) were added to a DMF (10 ml) solution of the resulting residue, followed by stirring at 60° C. for 14 hours. Distilled water and chloroform were added to the reaction solution and then the organic layer was separated. Furthermore, the organic layer washed with an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and filtered and then the solvent was removed by evaporation under reduced pressure. The resulting crude product was purified by flash chromatography (chloroform:methanol=25:1) to obtain 35 mg of 2-{1-[5-(2-chlorophenyl)-4-methyl-4H-1,2,4-triazol-3-yl]-1-methylethyl} isoindoline (colorless solid).

reactant | Trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-Butyl-{1-[5-(2-chlorophenyl)-4-methyl-4H-1,2,4-triazol-3-yl]-1-methylethyl}carbamate | 500 mg | C(C)(C)(C)OC(NC(C)(C)C1=NN=C(N1C)C1=C(C=CC=C1)Cl)=O | C17H23ClN4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-{1-[5-(2-chlorophenyl)-4-methyl-4H-1,2,4-triazol-3-yl]-1-methylethyl} isoindoline | 35 mg | ClC1=C(C=CC=C1)C=1N(C(=NN1)C(C)(C)N1CC2=CC=CC=C2C1)C | C20H21ClN4
